Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
weakness, flu positive
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with with CLL presenting 
with
generalized weakness. Today the patient awoke and found himself
to be weak in his legs. Had difficulty ambulating. Found to have
a fever at home. Complaining of nausea, had one episode of
emesis. No report of diarrhea or chest pain. Has had cough,
unclear duration. Family also complaining that he is
intermittently confused.

In the ED, initial vitals: 
T 100.8, HR 93, BP 175/94, RR 20, 95% RA 
 
- ED Exam:
Const: Comfortable
Eyes: No conjunctival injection
HENT: NCAT, Neck supple without meningismus. No facial droop.
Posterior pharynx without erythema, swelling, or purulence.
CV: RRR, Warm, well-perfused extremities
RESP: CTAB, Unlabored respiratory effort
GI: soft, non-tender, non-distended
GU: No CVA tenderness
MSK: No gross deformities appreciated. 5 out of 5 strength in
bilateral upper and lower extremities. No facial droop. No
slurred speech.
Skin: Warm, dry. No rashes
Neuro: Alert, Speech fluent 
Psych: Appropriate mood and affect.

- Labs notable for: 
FluA PCR POSITIVE  
WBC 87.2 -> 99.2
Hb 9.9 -> 10.3
Plt 76 -> 73
LDH 581

UA - WBC 50, Bacteria few, Mod leuks, neg nitrites

- Imaging notable for:  
CXR 
No convincing evidence for pneumonia or edema. Mild bibasilar
atelectasis with coarsened interstitial markings in the lower
lungs suggesting a component of fibrosis. 

- Patient was given:  
IV CefTRIAXone 1 gm 
PO OSELTAMivir 75 mg

- Vitals prior to transfer: 
T 98.9, HR 63, BP 128/72, RR 20, 94% RA 

On arrival to the floor, the patient says he feels much better
than before. Denies acute complaints currently. Denies dysuria 
or
frequency.
  
REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative less otherwise noted in the HPI. 
 
Past Medical History:
Spinal stenosis, dizziness, kidney stone,
anxiety, GERD, hypercholesterolemia, atrial fibrillation, right
hip fracture s/p ORIF, leukemia, and glaucoma.
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
======================== 
GENERAL: Pleasant, lying in bed comfortably  
HEENT: blind, MMM, oropharynx clear
CARDIAC: RRR, no murmurs appreciated
LUNG: CTAB, no wheezes or crackles, no increased work of
breathing
ABD: soft, nontender, nondistended, no suprapubic tenderness
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses 
NEURO: Alert, moves all four extremities
SKIN: No significant rashes  

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 844)
    Temp: 98.5 (Tm 98.5), BP: 157/90 (108-157/62-90), HR: 77
(67-77), RR: 18 (___), O2 sat: 97% (94-99), O2 delivery: RA   
GENERAL: Pleasant, lying in bed comfortably  
HEENT: blind, MMM, oropharynx clear
CARDIAC: RRR, no murmurs appreciated
LUNG: CTAB, no wheezes or crackles, no increased work of
breathing
ABD: soft, nontender, nondistended, no suprapubic tenderness
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses 
NEURO: Alert, moves all four extremities, oriented to self and
___. Does not know the year.
SKIN: No significant rashes  

 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:47PM BLOOD WBC-87.2* RBC-2.94* Hgb-9.9* Hct-31.6* 
MCV-108* MCH-33.7* MCHC-31.3* RDW-14.6 RDWSD-56.8* Plt Ct-76*
___ 08:47PM BLOOD Neuts-3* Lymphs-97* Monos-0* Eos-0* 
Baso-0 AbsNeut-2.62 AbsLymp-84.58* AbsMono-0.00* AbsEos-0.00* 
AbsBaso-0.00*
___ 08:47PM BLOOD Anisocy-1+* Poiklo-1+* Macrocy-1+* 
Ovalocy-1+* RBC Mor-SLIDE REVI
___ 08:47PM BLOOD ___ PTT-24.3* ___
___ 08:47PM BLOOD Glucose-133* UreaN-20 Creat-1.0 Na-141 
K-5.3 Cl-104 HCO3-25 AnGap-12
___ 08:47PM BLOOD LD(LDH)-581*
___ 08:59PM BLOOD Lactate-1.1
___ 09:44PM URINE Color-Yellow Appear-Clear Sp ___
___ 09:44PM URINE Blood-MOD* Nitrite-NEG Protein-100* 
Glucose-TR* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD*
___ 09:44PM URINE RBC-24* WBC-50* Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 09:44PM URINE CastHy-1*
___ 09:44PM URINE Mucous-FEW*

MICROBIOLOGY:
=============
___ 12:10AM OTHER BODY FLUID FluAPCR-POSITIVE* 
FluBPCR-NEGATIVE

IMAGING AND REPORTS:
====================
CHEST (PA & LAT) ___
No convincing evidence for pneumonia or edema.  Mild bibasilar 
atelectasis
with coarsened interstitial markings in the lower lungs 
suggesting a component of fibrosis.

DISCHARGE LABS:
===============

___ 04:33AM BLOOD WBC-74.2* RBC-2.86* Hgb-9.6* Hct-31.0* 
MCV-108* MCH-33.6* MCHC-31.0* RDW-14.5 RDWSD-58.0* Plt Ct-72*
___ 04:33AM BLOOD Glucose-106* UreaN-20 Creat-1.0 Na-145 
K-3.5 Cl-104 HCO3-27 AnGap-14
___ 04:33AM BLOOD Calcium-8.9 Phos-4.2 Mg-2.2
 
Brief Hospital Course:
SUMMARY OF HOSPITAL COURSE
==========================
___ ___ speaking male w/ history of blindness, CLL, afib, HTN 
who presented with weakness in setting of influenza A infection 
admitted for ___ and placement. Developed some hospital delirium. 
Discharged to rehab following Tamiflu course. 

ACUTE ISSUES: 
============= 
# Influenza A
# Weakness
Presented with flu-like symptoms. FluA positive. Completed 5d 
course of Tamiflu.

#Hyperactive Delirium:
Had intermittent agitation while inpatient, primarily at night. 
This improved as influenza infection resolved. 

CHRONIC/RESOLVED ISSUES: 
========================
# Pyuria
Noted on admission UA. Asymptomatic and chronic, similar to 
prior UA in ___ and ___. No indication to treat.

# Atrial fibrillation
# Afib w/ RVR: resolved
Had an episode of RVR iso not receiving home dilt. Improved w/ 
IVF and PO dilt. Improved after starting dilt and transitioned 
to home dilt. 
- home diltiazem 300 mg XL
- cont apixaban 5 mg BID

# CLL
# Thrombocytopenia
# Anemia: 
Hx of CLL followed by Atrius. WBC elevated to 99 with leukocytic 
predominance on admission. On last labs w/ Atrius on ___, 
WBC 74 w/ 90% leukocytes, 7% neutrophils, Hgb 10.5, Plt 78.
Anemia and thrombocytopenia are stable compared to prior. WBC 
elevated and uptrending possibly worsening of underlying CLL vs 
hemoconcentration iso infection, though significantly improved
(99->50) and had received some IVF. 

# CODE: full (presumed) 
# CONTACT: ___ (HCP Son) ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Diltiazem Extended-Release 300 mg PO DAILY 
2. Sertraline 100 mg PO DAILY 
3. Tamsulosin 0.4 mg PO QHS 
4. TraMADol 50 mg PO BID:PRN Pain - Moderate 
5. Apixaban 5 mg PO BID 
6. Clotrimazole Cream 1 Appl TP BID 
7. Erythromycin 0.5% Ophth Oint 0.5 in LEFT EYE TID 
8. Polymyxin B -Trimethoprim Ophth Soln 1 DROP RIGHT EYE DAILY 
9. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever 
10. Esomeprazole 40 mg Other BID 
11. Multivitamins 1 TAB PO DAILY 
12. Aspirin 81 mg PO DAILY 
13. Polyethylene Glycol 17 g PO DAILY 
14. Mupirocin Ointment 2% 1 Appl TP BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Apixaban 5 mg PO BID  
3.  Aspirin 81 mg PO DAILY  
4.  Clotrimazole Cream 1 Appl TP BID  
5.  Diltiazem Extended-Release 300 mg PO DAILY  
6.  Erythromycin 0.5% Ophth Oint 0.5 in LEFT EYE TID  
7.  Esomeprazole 40 mg Other BID  
8.  Multivitamins 1 TAB PO DAILY  
9.  Mupirocin Ointment 2% 1 Appl TP BID  
10.  Polyethylene Glycol 17 g PO DAILY  
11.  Polymyxin B -Trimethoprim Ophth Soln 1 DROP RIGHT EYE DAILY 
 
12.  Sertraline 100 mg PO DAILY  
13.  Tamsulosin 0.4 mg PO QHS  
14.  TraMADol 50 mg PO BID:PRN Pain - Moderate  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
#Influenza Infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted because you had the flu
 
What was done for me while I was in the hospital?  
- You were given medications for the flu.
- You worked with Physical Therapy who recommended rehab.

What should I do when I leave the hospital?  
- Continue taking your medications as prescribed.
- Keep all of your ___ appointments. 
 
Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___